US05439922
5-chloro-1-(4-fluorophenyl)-3-[1-(2-hydroxyethyl)-4-piperidyl]-1H-indole, hydrochloride, 1 MP:266°-269° C.
5-chloro-1-(4-fluorophenyl)-3-(4-piperidyl)-1H-indole, fumarate, 10, MP: 196°-201° C.

reactant | 5-chloro-1-(4-fluorophenyl)-3-(4-piperidyl)-1H-indole | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C1CCNCC1 | C19H18ClFN2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 5-chloro-1-(4-fluorophenyl)-3-[1-(2-hydroxyethyl)-4-piperidyl]-1H-indole, hydrochloride | Cl.ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C1CCN(CC1)CCO | InChI=1S/C21H22ClFN2O.ClH/c22-16-1-6-21-19(13-16)20(15-7-9-24(10-8-15)11-12-26)14-25(21)18-4-2-17(23)3-5-18;/h1-6,13-15,26H,7-12H2;1H
